US07091227B2
N1-[3-(2-{[(Ethylamino)Carbonyl]amino}-1,3-benzothiazol-6-yl)-3-oxopropyl]benzamide
A solution of 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea (0.033 g, 0.10 mmol) in 1 mL anhydrous DMF was treated with triethylamine (0.028 mL, 0.20 mmol, 2.0 eq) at room temperature. It was stirred for about 5 min, followed by the addition of benzoyl chloride (0.014 mL, 0.12 mmol, 1.2 eq). It was stirred for about 2.5 hours, quenched with MeOH, filtered, concentrated, and purified by HPLC to give the desired compound 0.011 g (28%). LC/MS 396.7 (M+1); LC retention time 2.74 min.

reactant | 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea | 0.10 mmol, 0.033 g | NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C13H16N4O2S
reactant | triethylamine | 0.20 mmol, 0.028 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.12 mmol, 0.014 mL, 1.2 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N1-[3-(2-{[(Ethylamino)Carbonyl]amino}-1,3-benzothiazol-6-yl)-3-oxopropyl]benzamide | 0.011 g, 28% | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C(CCNC(C2=CC=CC=C2)=O)=O | C20H20N4O3S
